US07618985B2
A suspension of 1-amino-7-methylisoquinolin4-ol (430 mg, 2.4 mmol), 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester (1.0 g) and K2CO3 (510 mg, 3.7 mmol) in anhydrous N, N-dimethylformamide (8 ml) were microwaved at 100° C. for 10 minutes. A further equivalent of 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester in N, N-dimethylformamide (4 ml) was added and the mixture microwaved at 100° C. for a further 10 minutes. The mixture was diluted with water, acidified with acetic acid and further diluted with methanol. The mixture was loaded onto a pre-acidified SCX column, washed with methanol and then eluted with 2M ammonia in methanol. The crude product was isolated and further purified using flash chromatography on silica (eluent: 9:1:0.1 dichloromethane : methanol :ammonium hydroxide) to afford 4-(1-amino-7-methylisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester (327 mg). A mixture of the 4-(1-amino-7-methylisoquinolin-6-yloxy)-piperidine-1-carboxylic acid tert-butyl ester in dichloromethane (5 ml) and trifluoroacetic acid (2 ml) was stirred at ambient temperature overnight. The mixture was concentrated in vacuo to give a residue. The residue was loaded onto a pre-acidified SCX column, washed with methanol and then eluted with 2M ammonia in methanol to give 7-methyl-6-(piperidin-4-yloxy)isoquinolin-1-ylamine (270 mg), El-MS: m/z=258.4 [M+H]+.

reactant | 1-amino-7-methylisoquinolin4-ol | 2.4 mmol, 430 mg | NC1=NC=C(C2=CC=C(C=C12)C)O | C10H10N2O
reactant | 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | K2CO3 | 3.7 mmol, 510 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N, N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | N, N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-(1-amino-7-methylisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester | 327 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C2C=CN=C(C2=CC1C)N | C20H27N3O3
